US08076491B2
1-benzyl-N-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)hydrazinecarboxamide (2.00 g, 5.88 mmol), ethyl chloroformate (6.38 g, 58.77 mmol), and triethylamine (1.78 g, 17.63 mmol) in acetonitrile (50 mL) were heated at 100° C. for 48 hours. The mixture was cooled to 80° C., 1 M NaOH(aq) (5 mL) was added and the reaction mixture was stirred for 1 hour. The reaction was cooled to room temperature and concentrated on the rotpvap. The residue was dissolved in dichloromethane and filtered to remove salts and the solution was concentrated to afford 1-benzyl-4-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)-1,2,4-triazolidine-3,5-dione (1.28 g, 60%) as a yellow oil. MS M+H calculated 367.14; found 367.2.

reactant | 1-benzyl-N-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)hydrazinecarboxamide | 5.88 mmol, 2.00 g | C(C1=CC=CC=C1)N(N)C(=O)NC=1C=NN(C1)CC=1C(=NOC1C)C | C17H20N6O2
reactant | ethyl chloroformate | 58.77 mmol, 6.38 g | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 17.63 mmol, 1.78 g | C(C)N(CC)CC | C6H15N
reactant | NaOH | 1 M, 5 mL | [OH-].[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-benzyl-4-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)-1,2,4-triazolidine-3,5-dione | 1.28 g, 60% | C(C1=CC=CC=C1)N1NC(N(C1=O)C=1C=NN(C1)CC=1C(=NOC1C)C)=O | C18H18N6O3
